US05935952
In 8 ml of sulfuric acid was dissolved 2.0 g of 4-bromo-2,5-difluoro-3-methoxybenzoic acid, and 4 ml of nitric acid was dropwise added to the solution with ice-cooling, after which the resulting mixture was stirred at room temperature for one hour. The reaction mixture was added to a mixed solvent of 50 ml of diethyl ether and 50 ml of ice water, and the organic layer formed was separated, washed with a saturated saline solution and then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure. To the residue thus obtained was added n-hexane, and the resulting crystals were collected by filtration to obtain 1.9 g of pale yellow, crystalline 4-bromo-2,5-difluoro-3-methoxy-6-nitrobenzoic acid.

reactant | 4-bromo-2,5-difluoro-3-methoxybenzoic acid | 2.0 g | BrC1=C(C(=C(C(=O)O)C=C1F)F)OC | C8H5BrF2O3
reactant | nitric acid | 4 ml | [N+](=O)(O)[O-] | HNO3
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | n-hexane | CCCCCC | C6H14
solvent | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
product | 4-bromo-2,5-difluoro-3-methoxy-6-nitrobenzoic acid | BrC1=C(C(=C(C(=O)O)C(=C1F)[N+](=O)[O-])F)OC | C8H4BrF2NO5
